US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-VII, 35 mg, 0.081 mmol), methanamine-HCl (8.24 mg, 0.122 mmol), HATU (40.2 mg, 0.106 mmol), and 4-methylmorpholine (32.9 mg, 0.325 mmol) were added to DMF (1 mL). The reaction mixture was stirred for 1 h and then purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 12 min, 20 mL/min, 220 nM, product retention 13.0 min) to provide (R/S)-2-hydroxy-N-methyl-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (30 mg, 0.066 mmol, 82% yield): LCMS=444.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.46 (1 H, s), 8.07-8.15 (2 H, m), 7.51-7.71(7 H, m), 5.11(1 H, s), 3.35(1 H, s), 2.79 (3 H, s); HPLC peak RT=7.4 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.081 mmol, 35 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C20H13F3N4O4
reactant | methanamine-HCl | 0.122 mmol, 8.24 mg | Cl.CN
reactant | HATU | 0.106 mmol, 40.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.325 mmol, 32.9 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-methyl-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.066 mmol, 30 mg, 82% yield | OC(C(=O)NC)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C21H16F3N5O3
